US08110602B2
To a mixture of cyclooctanone (EA, 17 g, 135 mmol, Sigma-Aldrich) in ethanol (200 mL) and water (200 mL) were added KCN (17.5 g, 269 mmol, Sigma-Aldrich) followed by ammonium carbonate ([NH4]2CO3, 51.8 g, 539 mmol, Sigma-Aldrich). The resulting reaction mixture was stirred at 80° C. for 6 h. The reaction mixture was evaporated to dryness under reduced pressure to provide a white solid precipitate which was filtered, collected, and dried for 16 h to provide 15.9 g of the compound of formula RB, 1,3-diazaspiro[4.7]dodecane-2,4-dione (yield 73%).

reactant | cyclooctanone | 135 mmol, 17 g | C1(CCCCCCC1)=O | C8H14O
reactant | KCN | 269 mmol, 17.5 g | [C-]#N.[K+]
reactant | ammonium carbonate | 539 mmol, 51.8 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | 1,3-diazaspiro[4.7]dodecane-2,4-dione | yield 73% | N1C(NC(C12CCCCCCC2)=O)=O | C10H16N2O2
